US05808062
4-Hydroxy-6-(4-hydroxy-3,5-dimethylphenyl)-3-[(phenylmethyl)thio]-2H-pyran-2-one:
To a THF (10 mL) solution of 6-[3,5-dimethyl-4-[[dimethyl(1,1-dimethylethyl)silyl]oxy]phenyl]-4-hydroxy-3-[(phenylmethyl)thio]-2H-pyran-2-one at 0° C. is added 3 N HCl (9.0 mL). The reaction is stirred for 48 hrs. at room temperature. The reaction is quenched by pouring onto ethyl acetate and washed in succession with water, saturated sodium chloride; dried over anhydrous magnesium sulfate. After evaporation of the solvents in vacuo, the crude product was purified by flash column chromatography (SiO2 --230 to 400 mesh) using 50% ethyl acetate/hexanes. m.p. 174°-176° C.; 1H NMR (250 MHz, DMSO-d6) δ 2.21 (s, 6 H), 2.60 (m, 1 H), 3.96 (s, 2 H), 6.52 (s, 1 H), 7.23 (s, 5 H), 7.38 (s, 2 H), 9.06 (s, 1 H).

reactant | 6-[3,5-dimethyl-4-[[dimethyl(1,1-dimethylethyl)silyl]oxy]phenyl]-4-hydroxy-3-[(phenylmethyl)thio]-2H-pyran-2-one | CC=1C=C(C=C(C1O[Si](C(C)(C)C)(C)C)C)C1=CC(=C(C(O1)=O)SCC1=CC=CC=C1)O | C26H32O4SSi
reactant | HCl | 3 N, 9.0 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-6-(4-hydroxy-3,5-dimethylphenyl)-3-[(phenylmethyl)thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC(=C(C(=C1)C)O)C)=O)SCC1=CC=CC=C1 | C20H18O4S
